US07229943B2
Preparation of N-[(1E)-1-(1-benzyl-1H-benzimidazol-2-yl)ethylidene]-N-1,1′:3′,1″-terphenyl-2′-ylamine (L-7)
A mixture of 0.70 g (1.87 mmol) N-[(1E)-1-(1H-benzimidazol-2-yl)ethylidene]-N-1,1′:3′,1″-terphenyl-2′-ylamine, 1.42 g (10.3 mmol) anhydrous K2CO3 and 0.35 g (2.06 mmol) benzylbromide in 4 ml anhydrous DMF was stirred at room temperature for 10 hours. The reaction mixture was then poured into 80 ml water, stirred for 10 min and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with water (3×25 ml) and dried over anhydrous Na2SO4. The solvent was evaporated to give an yellow oil which was triturated with 5 ml methanol at −78° C., filtered while cold washed with cold (−78° C.) methanol (2×2 ml) and dried under reduced pressure. Yield 0.56 g (66.2%). 1H NMR (250 MHz, CDCl3), δ, ppm: 2.07 (s, 3H), 5.51 (m, 2H), 6.90 (m, 2H), 7.22 (m, 19H), 7.78 (m, 1H).

reactant | N-[(1E)-1-(1H-benzimidazol-2-yl)ethylidene]-N-1,1′:3′,1″-terphenyl-2′-ylamine | 1.87 mmol, 0.70 g | N1C(=NC2=C1C=CC=C2)\C(\C)=N\C2=C(C=CC=C2C2=CC=CC=C2)C2=CC=CC=C2 | C27H21N3
reactant | K2CO3 | 10.3 mmol, 1.42 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylbromide | 2.06 mmol, 0.35 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 80 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | N-[(1E)-1-(1-benzyl-1H-benzimidazol-2-yl)ethylidene]-N-1,1′:3′,1″-terphenyl-2′-ylamine | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)\C(\C)=N\C2=C(C=CC=C2C2=CC=CC=C2)C2=CC=CC=C2 | C34H27N3
